US05962458
A mixture of 4-(3-acetoxy-4-methylanilino)-7-benzyloxy-6-methoxyquinazoline hydrochloride (2.68 g, 5.75 mmol), 10% palladium-on-charcoal catalyst (0.27 g) in methanol (50 ml), DMF (12 ml) and trichloromethane (50 ml) was stirred at ambient temperature under an atmosphere of hydrogen (1.5 atmospheres) for 30 minutes. The catalyst was filtered off and the filtrate evaporated. The residual solid was triturated in ether, filtered off and dried under vacuum at 50° C. to give 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (2.1 g, 100%).

reactant | 4-(3-acetoxy-4-methylanilino)-7-benzyloxy-6-methoxyquinazoline hydrochloride | 5.75 mmol, 2.68 g | Cl.C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=CC=C2)C=CC1C
catalyst | palladium-on-charcoal | 0.27 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | trichloromethane | 50 ml | ClC(Cl)Cl | CHCl3
product | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 2.1 g, 100% | Cl.C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C | InChI=1S/C18H17N3O4.ClH/c1-10-4-5-12(6-16(10)25-11(2)22)21-18-13-7-17(24-3)15(23)8-14(13)19-9-20-18;/h4-9,23H,1-3H3,(H,19,20,21);1H
